US04528371
To a stirred suspension of 2-hydroxy-4-oxo-4-(2-hydroxyphenyl)butyric acid (0.025M) in water (20 ml) was added triethylamine (3.3 ml), taking the pH to 9.5, followed by concentrated hydrochloric acid (2.5 ml) to take the pH to 4. Hydrazine (0.05M) was added slowly with the concurrent addition of sufficient glacial acetic acid to maintain a pH of 7.0. Steam heating was applied for 2 hours and during this time the pH of 7.0 was maintained by the addition of ammonia as necessary. The reaction mixture was allowed to cool to room temperature. The solid was filtered off, washed with water, 2-propanol and dried to afford 6-(2-hydroxyphenyl)-3(2H)-pyridazinone (78.3%).

reactant | 2-hydroxy-4-oxo-4-(2-hydroxyphenyl)butyric acid | 0.025M | OC(C(=O)O)CC(C1=C(C=CC=C1)O)=O | C10H10O5
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | Hydrazine | 0.05M | NN | H4N2
reactant | ammonia | N | H3N
solvent | water | 20 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
product | 6-(2-hydroxyphenyl)-3(2H)-pyridazinone | 78.3% | OC1=C(C=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
